US08039463B2
HOBt (972 mg, 7.2 mmol) and DIEA (1.14 g, 8.9 mmol) were added to a stirred solution of 4-nitro-benzoic acid (1 g, 5.96 mmol) in DMF (6 mL). The reaction mixture was cooled to 10° C. EDCI.HCl (1.38 g, 7.2 mmol) followed by acetic acid hydrazide (490 mg, 6.6 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organics were washed with saturated sodium bicarbonate solution followed by brine solution, dried over Na2SO4 and evaporated to afford 700 mg (55%) of 4-nitro-benzoic acid N′-acetyl-hydrazide. 1H NMR: (DMSO-d6): δ 10.7 (s, 1H), 10.0 (s, 1H), 8.4 (d, 2H), 8.1 (d, 2H), 1.9 (s, 3H).

reactant | HOBt | 7.2 mmol, 972 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 8.9 mmol, 1.14 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitro-benzoic acid | 5.96 mmol, 1 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | EDCI.HCl | 7.2 mmol, 1.38 g | CCN=C=NCCCN(C)C.Cl
reactant | acetic acid hydrazide | 6.6 mmol, 490 mg | C(C)(=O)NN | C2H6N2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-nitro-benzoic acid N′-acetyl-hydrazide | 700 mg, 55% | C(C)(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C9H9N3O4
